US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(3-methoxyphenyl)imidazolidin-2-one
The compound was synthesized as hydrochloride salt starting from 5-aminobenzimidazole (0.532 g, 4 mmol), di(1H-imidazol-1-yl)methanone (0.713 g, 4.4 mmol), TEA (1.67 mL, 12 mmol), aminomethyl-(3-methoxyphenyl)ketone hydrochloride (0.807 g, 4 mmol), TEA (1.12 mL, 8 mmol), PdC (10%, 0.02 g) as described in method 1.

reactant | 5-aminobenzimidazole | 4 mmol, 0.532 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | di(1H-imidazol-1-yl)methanone | 4.4 mmol, 0.713 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | aminomethyl-(3-methoxyphenyl)ketone hydrochloride | 4 mmol, 0.807 g | Cl.NCC(=O)C1=CC(=CC=C1)OC
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(3-methoxyphenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC(=CC=C2)OC)=O | C17H16N4O2
